US07199239B2
Intermediate 25: Ethyl [2-methyl-4-({pentyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate
To a solution of N-pentyl-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine (70 mg, 0.23 mmol) in anhydrous MeCN (6 mL) under nitrogen at room temperature, was added ethyl [4-(bromomethyl)-2-methylphenoxy]acetate (65.4 mg, 0.23 mmol) and N,N-diisopropyethylamine (39.6 μL, 0.23 mmol). The resultant solution was heated to reflux and stirred for 4 h. The reaction mixture was allowed to cool to room temperature and the solvent was removed in vacuo. The residue was partitioned between CHCl3 (20 mL) and water (10 mL). The organic solution was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification by SPE (5 g Silica cartridge) eluted with 1:200–1:100 EtOAc:cyclohexane afforded the title compound as a colourless oil (66 mg).

reactant | N-pentyl-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 0.23 mmol, 70 mg | C(CCCC)NC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C18H20F3N
reactant | ethyl [4-(bromomethyl)-2-methylphenoxy]acetate | 0.23 mmol, 65.4 mg | BrCC1=CC(=C(OCC(=O)OCC)C=C1)C | C12H15BrO3
reactant | N,N-diisopropyethylamine | 0.23 mmol, 39.6 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | MeCN | 6 mL | CC#N | C2H3N
product | Ethyl [2-methyl-4-({pentyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate | 66 mg | CC1=C(OCC(=O)OCC)C=CC(=C1)CN(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CCCCC | C30H34F3NO3
